US07179823B1
A mixture of ethyl(E)-3-[1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-3-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxy]-1H-pyrazol-4-yl]propenoate (24.15 g), 5% palladium-carbon (34.22 g), and tetrahydrofuran (400 ml) was stirred at room temperature under a hydrogen atmosphere overnight. After removal of the catalyst by filtration, and the filtrate was concentrated. The residue was subjected to silica gel column chromatography, and ethyl 3-[3-hydroxy-1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-1H-pyrazol-4-yl]propionate was obtained from the fraction eluted with ethyl acetate-hexane (2:1, volume ratio) as colorless crystals (13.93 g, yield: 92%). This was recrystallized from tetrahydrofuran-hexane. Melting point: 137–138° C.

reactant | ethyl(E)-3-[1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-3-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxy]-1H-pyrazol-4-yl]propenoate | 24.15 g | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(CN2N=C(C(=C2)/C=C/C(=O)OCC)OCC2=CC=C(C=C2)OCC=2N=C(OC2C)C2=CC=CC=C2)C=C1 | C44H40N4O7
catalyst | palladium-carbon | 34.22 g | [C].[Pd]
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
product | ethyl 3-[3-hydroxy-1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-1H-pyrazol-4-yl]propionate | OC1=NN(C=C1CCC(=O)OCC)CC1=CC=C(C=C1)OCC=1N=C(OC1C)C1=CC=CC=C1 | C26H27N3O5
